US05231102
Step c: Trans-2-carboxy-5,7-dichloro-4-(4-iodophenyl)aminocarbonylamino-1,2,3,4-tetrahydroquinoline
This compound was prepared by the method given for Example 38 step b using trans-2-methoxycarbonyl-5,7-dichloro-4(4-iodophenylaminocarbonyl)amino-1,2,3,4-tetrahydroquinoline in place of trans-2-methoxycarbonyl-5,7-dichloro-4(phenylaminocarbonyl)amino-1,2,3,4-tetrahydroquinoline to give the title compound as colourless crystals, m.p. 224°-226° C. δ (DMSO, 360 MHz) 1.62 (1H, ddd, J=13.1, 12.9 and 3.4 Hz, CHACHBHCCHD), 2.31 (1H, dm, J=13.1 Hz, CHACHBHCCHD), 3.87 (1H, dd, J=12.7 and 2.7 Hz, CHACHBHCCHD), 4.92 (1H, m, CHACHBHCCHD), 6.58 (1H, d, J=6.6 Hz, NHCONHAr), 6.68 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.79 (1H, s, ArNHCH), 6.88 (1H, d, J=2.0 Hz, 6-H or 8-H), 7.25 (2H, d, J=8.7 Hz-Ar-H), 7.54 (2H, d, 8.7 Hz, Ar-H), 8.26 (1H, s, NHCONHAr); m/e (FAB+) 506 (M+1) 93 (100%); Found C, 40.14; H, 2.80; N, 8.20; C17H14Cl2N3IO3.O.1H2O requires C, 40.20; H, 2.82; N, 8.24%.

reactant | trans-2-methoxycarbonyl-5,7-dichloro-4(4-iodophenylaminocarbonyl)amino-1,2,3,4-tetrahydroquinoline | COC(=O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)NC1=CC=C(C=C1)I)Cl)Cl | C18H16Cl2IN3O3
solvent | DMSO | CS(=O)C | C2H6OS
product | Trans-2-carboxy-5,7-dichloro-4-(4-iodophenyl)aminocarbonylamino-1,2,3,4-tetrahydroquinoline | C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)NC1=CC=C(C=C1)I)Cl)Cl | C17H14Cl2IN3O3
